US07910613B2
5-(2-Ethyl-2H-tetrazol-5-yl)-4-phenyl-thiazol-2-ylamine
1-Phenyl-2-(2H-tetrazol-5-yl)-ethanone (3.3 g, 17.5 mmol), ethyl iodide (1.4 g, 17.5 mmol) and potassium carbonate (2.4 g, 17.5 mmol) was heated at reflux in acetone (50 mL) for 5 h under argon. The reaction mixture was then poured into water, made acidic with 6M HCl and extracted with diethyl ether. The organic extract was dried and evaporated to a red/orange oil. The oil was dissolved in diethyl ether (100 mL) and bromine (17.5 mmol) was added. The mixture was stirred over night at ambient temperature, then the solvent was removed in vacuo and the residue was redissolved in ethanol (100 mL). Thiourea (35 mmol) was added, and the resulting mixture was heated at reflux for 10 min., after which a solid precipitated. The reaction mixture was poured into water containing NaOH (17.5 mmol), and the orange crude product was recovered by filtration. The crude product was recrystallized from acetonitrile to give pale yellow solid. Yield: 0.6 g, 17%.

reactant | 1-Phenyl-2-(2H-tetrazol-5-yl)-ethanone | 17.5 mmol, 3.3 g | C1(=CC=CC=C1)C(CC=1N=NNN1)=O | C9H8N4O
reactant | ethyl iodide | 17.5 mmol, 1.4 g | C(C)I | C2H5I
reactant | potassium carbonate | 17.5 mmol, 2.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | 6M | Cl | ClH
reactant | bromine | 17.5 mmol | BrBr | Br2
reactant | Thiourea | 35 mmol | NC(=S)N | CH4N2S
reactant | NaOH | 17.5 mmol | [OH-].[Na+]
solvent | acetone | 50 mL | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 5-(2-Ethyl-2H-tetrazol-5-yl)-4-phenyl-thiazol-2-ylamine | C(C)N1N=C(N=N1)C1=C(N=C(S1)N)C1=CC=CC=C1 | C12H12N6S
